US09163102B2
MA/MVE Polymer Branched by DVI from Cyclohexane/Ethyl Acetate
The polymer was discharged from the reactor as a slurry (a blend of cyclohexane and ethyl acetate in equal mass ratio does not dissolve MA/MVE polymer) and the slurry contained 14.0% solids. Mw was 572,580 Da, and Mn was 135,682 Da, giving a PDI of 4.22. GPC recovery was 99%, suggesting negligible or zero crosslinked/gel content, and ηBrookfield was about 1 cP.

reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cyclohexane Ethyl Acetate | C1CCCCC1.C(C)(=O)OCC | InChI=1S/C6H12.C4H8O2/c1-2-4-6-5-3-1;1-3-6-4(2)5/h1-6H2;3H2,1-2H3
